US03953429
A solution of 3β-hydroxy-5α-pregn-16-ene-11,20-dione (39.6 g) in dry pyridine (165 ml.) was treated with toluene-p-sulphonyl chloride (43.9 g.) to give 3β-toluene-p-sulphonyloxy-5α-pregn-16-ene-11,20-dione (56.7 g.) m.p. 147°-151°. A portion (10.7 g.) of this material was crystallised from ethyl acetate-petrol to give the pure toluenesulphonate (9.2 g.) as plates m.p. 154°-155°, [α]D + 42.8° (c 1.2).

reactant | 3β-hydroxy-5α-pregn-16-ene-11,20-dione | 39.6 g | O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C21H30O3
reactant | toluene-p-sulphonyl chloride | 43.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 165 ml | N1=CC=CC=C1 | C5H5N
product | 3β-toluene-p-sulphonyloxy-5α-pregn-16-ene-11,20-dione | 56.7 g | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C)C | C28H36O5S
